US04741767
100 g of silica gel are added to a solution of 200 g of 3-isopropyl-3-methyl-2H-imidazo[1',2':1,2]pyrrolo[3,4-b]pyridine-2,5(3H)-dione in 900 ml of isopropyl acetate and 100 ml of absolute isopropanol, and the resulting suspension is then stirred at room temperature for about 16 hours. The mixture is subsequently filtered, the filtrate is evaporated to dryness and the residue is crystallized from ethyl acetate/n-hexane. There is obtained 1,9b-dihydro-9b-isopropoxy-3-isopropyl-3-methyl-2H-imidazo[1',2':1,2]pyrrolo[3,4-b]pyridine-2,5(3H)-dione as colorless crystals, m.p. 158°-160° C.

reactant | 3-isopropyl-3-methyl-2H-imidazo[1',2':1,2]pyrrolo[3,4-b]pyridine-2,5(3H)-dione | 200 g | C(C)(C)C1(C(N=C2N1C(C=1C2=NC=CC1)=O)=O)C | C13H13N3O2
reactant | isopropyl acetate | 900 ml | C(C)(=O)OC(C)C | C5H10O2
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 1,9b-dihydro-9b-isopropoxy-3-isopropyl-3-methyl-2H-imidazo[1',2':1,2]pyrrolo[3,4-b]pyridine-2,5(3H)-dione | C(C)(C)OC12N(C(C=3C1=NC=CC3)=O)C(C(N2)=O)(C)C(C)C | C16H21N3O3
